US05002966
4-Amino-3,5-dichloro-α-[[[6-[3-[5-[(diethylamino)methyl]-2-furanyl]propoxy]hexyl]amino]methyl]benzenemethanol
A solution of 5-[3-[[6-[[2-(4-amino-3,5-dichlorophenyl)-2-hydroxyethyl]amino]hexyl]oxy]propyl]-N,N-diethyl-2-furancarboxamide (0.83 g) in benzene (6 ml) was added dropwise over 10 min to a stirred suspension of lithium aluminium hydride (175 mg) in dry ether (15 ml) under nitrogen. The mixture was stirred under nitrogen at 22° for 24 h, then quenched sequentially with water (1 ml), 2N sodium hydroxide solution (1 ml) and water (2 ml). The mixture was filtered through hyflo and the solids washed with toluene-ether (1:1, 10 ml). The combined filtrate and washings were dried and evaporated in vacuo to an oil. Purification by FCC eluting with System C (93:5:2) afforded the title compound as a pale yellow oil (0.59 g), t.l.c. (System A 39:10:1) Rf 0.5.

reactant | 5-[3-[[6-[[2-(4-amino-3,5-dichlorophenyl)-2-hydroxyethyl]amino]hexyl]oxy]propyl]-N,N-diethyl-2-furancarboxamide | 0.83 g | NC1=C(C=C(C=C1Cl)C(CNCCCCCCOCCCC1=CC=C(O1)C(=O)N(CC)CC)O)Cl | C26H39Cl2N3O4
reactant | lithium aluminium hydride | 175 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | benzene | 6 ml | C1=CC=CC=C1 | C6H6
solvent | ether | 15 ml | CCOCC | C4H10O
product | 4-Amino-3,5-dichloro-α-[[[6-[3-[5-[(diethylamino)methyl]-2-furanyl]propoxy]hexyl]amino]methyl]benzenemethanol | 0.59 g | NC1=C(C=C(C=C1Cl)C(O)CNCCCCCCOCCCC=1OC(=CC1)CN(CC)CC)Cl | C26H41Cl2N3O3
